US07468375B2
A 1 L 3-neck flask equipped with a mechanical stirrer was charged with a solution of 3-[(t-butoxycarbonyl)amino]-3-cyclopropylpropanoic acid (34.44 g, 160 mmol) in THF (150 mL). HBTU (66.75 g, 176 mmol) was added in small portions followed by triethylamine (35.62 g, 352 mmol) in THF (100 mL). The reaction mixture was stirred for 20 min at room temperature. A solution cyclopropylamine (10.00 g, 176 mmol) in THF (100 mL) was added slowly with an addition funnel. The reaction was stirred overnight at room temperature. The reaction mixture became thick as product started forming. After 17 h LC/ELSD/HMS indicated the completion of the reaction. Water (200 mL) was added to the reaction mixture and the mixture was stirred for 30 min. The solid product was filtered and dried in a vacuum oven overnight to afford analytically pure tert-butyl 1-cyclopropyl-3-(cyclopropylamino)-3-oxopropylcarbamate (39.60 g, 93% yield) mp=166-168° C.

reactant | 3-[(t-butoxycarbonyl)amino]-3-cyclopropylpropanoic acid | 160 mmol, 34.44 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1CC1 | C11H19NO4
reactant | HBTU | 176 mmol, 66.75 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 352 mmol, 35.62 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 176 mmol, 10.00 g | C1(CC1)N | C3H7N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Water | 200 mL | O | H2O
product | tert-butyl 1-cyclopropyl-3-(cyclopropylamino)-3-oxopropylcarbamate | 39.60 g, 93% yield | C1(CC1)C(CC(=O)NC1CC1)NC(OC(C)(C)C)=O | C14H24N2O3
